### PR TITLE
Bump to June 2026 versions of Lean and Mathlib

### PR DESCRIPTION
**Pull request by kkytola**

### CODE REVIEW

File: ExtremeValueProject/AffineTransformation.lean [hunk 1]
```diff
@@ -30,11 +30,14 @@ def AffineMap.coefs_of_field {𝕜 : Type*} [Field 𝕜] (A : 𝕜 →ᵃ[𝕜]
...
-    simp [AffineMap.coefs_of_field]
-  · simp
+  have hmain : A x = A.linear x + A 0 := by
+    have := A.map_vadd 0 x; simp only [vadd_eq_add, add_zero] at this; exact this
+  have hlin : A.linear x = A.coefs_of_field.1 * x := by
+    simp only [AffineMap.coefs_of_field]
+    have h := A.linear.map_smul x (1 : 𝕜)
+    simp only [smul_eq_mul, mul_one] at h
+    rw [h, show (LinearMap.ringLmapEquivSelf 𝕜 𝕜 𝕜) A.linear = A.linear 1 from rfl]; ring
+  rw [hmain, hlin, show A.coefs_of_field.2 = A 0 from rfl]
```
Comment (joelkronqvist) [inline ExtremeValueProject/AffineTransformation.lean]: Replace with
```lean4
convert A.map_vadd 0 x
· simp
· simp [AffineMap.coefs_of_field]
```
which is shorter, more readable and closer to the original.

File: ExtremeValueProject/AffineTransformation.lean
Comment (joelkronqvist) [inline ExtremeValueProject/AffineTransformation.lean]: The `intro`s can be combined.
```lean4
· intro a_pos x y x_le_y
```

File: ExtremeValueProject/AffineTransformation.lean [hunk 2]
```diff
@@ -234,8 +238,11 @@ noncomputable def orientationPreservingAffineEquiv : Subgroup (ℝ ≃ᵃ[ℝ] 
 /-- Orientation preserving affine isomorphisms ℝ → ℝ are continuous. -/
 lemma orientationPreservingAffineEquiv.continuous (A : orientationPreservingAffineEquiv) :
     Continuous (A : ℝ → ℝ) := by
-  apply (AffineMap.continuous_iff (R := ℝ) (E := ℝ) (F := ℝ) (f := A)).mpr
-  exact LinearMap.continuous_of_finiteDimensional _
+  have h : (A : ℝ → ℝ) = fun x ↦ A.val.toAffineMap.coefs_of_field.1 * x +
+                                   A.val.toAffineMap.coefs_of_field.2 :=
+    funext (fun x ↦ A.val.apply_eq_of_field x)
+  rw [h]
+  exact (continuous_const.mul continuous_id).add continuous_const
```
Comment (joelkronqvist) [inline ExtremeValueProject/AffineTransformation.lean]: This can be replaced with
```lean4
  apply (AffineMap.continuous_linear_iff (P := ℝ) (R := ℝ) (Q := ℝ) (f := A)).symm.mpr
  exact LinearMap.continuous_of_finiteDimensional _
```
which is closer to the original. If I remember right, `continuous_iff` was deprecated and is now just part of `continuous_linear_iff`.

File: ExtremeValueProject/DegenerateCDF.lean [hunk 3]
```diff
@@ -67,14 +67,14 @@ lemma isDegenerate_iff (F : CumulativeDistributionFunction) :
     simp only [indicator, mem_Ici]
     by_cases hx : x₀ ≤ x
     · simp only [hx, ↓reduceIte]
-      cases' lt_or_eq_of_le hx with x₀_lt x₀_eq
+      rcases lt_or_eq_of_le hx with x₀_lt | x₀_eq
       · exact one_after_x₀ x x₀_lt
       · simpa [← x₀_eq] using one_at_x₀
```
Comment (joelkronqvist) [inline ExtremeValueProject/DegenerateCDF.lean:72]:
```lean4
      match lt_or_eq_of_le hx with
      | Or.inl x₀_lt => exact one_after_x₀ x x₀_lt
      | Or.inr x₀_eq => simpa [← x₀_eq] using one_at_x₀
```
Is more readable to me. That might be just because I have never seen `rcases` with a `|` before (or a pipe in general in lean 4). So it's hard for me to judge which one is better style.

File: ExtremeValueProject/DegenerateCDF.lean [hunk 4]
```diff
@@ -123,16 +123,19 @@ lemma eq_diracProba_of_isDegenerate (μ : ProbabilityMeasure ℝ) (degen : μ.cd
   simp only [show ⇑μ.cdf = (fun x ↦ (μ (Iic x)).toReal)
               by ext x ; rw [ProbabilityMeasure.cdf_apply_eq]] at h
   have measure_Iic_eq_one : μ.toMeasure (Iic x₀) = 1 := by
-    simpa only [← toReal_eq_one_iff, mem_Ici, le_refl, indicator_of_mem] using congr_fun h x₀
+    have h₀ := congr_fun h x₀
+    simp only [mem_Ici, le_refl, indicator_of_mem] at h₀
+    have hnn : (μ (Iic x₀) : ℝ≥0) = 1 := by exact_mod_cast h₀
+    rw [← ProbabilityMeasure.ennreal_coeFn_eq_coeFn_toMeasure, hnn, ENNReal.coe_one]
```
Comment (joelkronqvist) [inline ExtremeValueProject/DegenerateCDF.lean]: I think the following is less ugly.
```lean4
    have tmp : _ := congr_fun h x₀
    simp only [mem_Ici, Std.le_refl, indicator_of_mem, NNReal.coe_eq_one] at tmp
    simpa only [ProbabilityMeasure.ennreal_coeFn_eq_coeFn_toMeasure, ENNReal.coe_one]
      using congrArg ENNReal.ofNNReal tmp
```
It might not be as robust though. Both are significantly worse than the original, but it seems to me something in Lean's coercions (if I remember the issue right) changed such that some additional convincing is required.

File: ExtremeValueProject/LimitRelationManipulation.lean [hunk 5]
```diff
@@ -94,13 +94,14 @@ lemma sub_smul_deriv_isLittleO_of_tendsto_atTop_of_tendsto_smul_apply {ι : Type
...
   have a_lim : Tendsto a L (𝓝 0) :=
     tendsto_zero_of_tendsto_atTop_of_tendsto_smul f hs m_to_infty a_in_s ha
-  simp only [hasDerivAt_iff_hasFDerivAt, HasFDerivAt, hasFDerivAtFilter_iff_isLittleOTVS, hf,
-             sub_zero, ContinuousLinearMap.smulRight_apply, ContinuousLinearMap.one_apply] at hDf
-  rw [isLittleOTVS_iff_isLittleO] at hDf
-  rw [isLittleO_iff] at hDf ⊢
+  have hDf' : (fun x' => f x' - x' • D) =o[𝓝 0] (fun x' => x') := by
+    have h := hDf.isLittleO
+    simp only [hf, sub_zero] at h
+    exact h
```
Comment (joelkronqvist) [inline ExtremeValueProject/LimitRelationManipulation.lean]: `simpa only [hf, sub_zero] using h` does the same in one line.

File: ExtremeValueProject/LimitRelationManipulation.lean
Comment (joelkronqvist) [inline ExtremeValueProject/LimitRelationManipulation.lean]: `ContinuousLinearMap.one_apply` is deprecated and should be replaced with `one_apply_eq_self` (substituting this for the last argument works directly).

The two last simplification lemmas can actually be omitted altogether.

File: ExtremeValueProject/SelfSimilarCDF.lean [hunk 6]
```diff
@@ -146,7 +146,8 @@ lemma apply_eq_zero_of_lt_of_selfSimilar_index_pos' {G : CumulativeDistributionF
                 from mul_pos (by linarith) (by linarith)]
     apply le_antisymm
     · exact pow_le_of_le_one (G.apply_nonneg x) (G.apply_le_one x) two_ne_zero
-    · simpa only [← Gx_sq] using G.mono obs.le
+    · rw [← Gx_sq, CumulativeDistributionFunction.mulAction_apply_eq G (homOfIndex α c (Real.log 2)) x]
+      exact G.mono obs.le
```
Comment (joelkronqvist) [inline ExtremeValueProject/SelfSimilarCDF.lean]: If a single simpa is ~~preserved~~preferred, then
```lean4
    ·  simpa only [← Gx_sq, CumulativeDistributionFunction.mulAction_apply_eq,
                   homOfIndex_inv, apply_eq, homOfIndex_coefs_fst,
                   neg_mul, homOfIndex_coefs_snd] using G.mono obs.le
```
works. I think `rw [...]; exact ...` is more robust.

File: ExtremeValueProject/SelfSimilarCDF.lean [hunk 7]
```diff
@@ -313,7 +313,8 @@ theorem classification {G : CumulativeDistributionFunction}
           simp [show Real.log 2 * β < 0 from mul_neg_of_pos_of_neg (log_pos one_lt_two) β_neg]
         apply le_antisymm
         · exact pow_le_of_le_one (G.apply_nonneg x) (G.apply_le_one x) two_ne_zero
-        · simpa only [← Gx_sq] using G.mono obs.le
+        · rw [← Gx_sq, CumulativeDistributionFunction.mulAction_apply_eq G (homOfIndex₀ β (Real.log 2)) x]
+          exact G.mono obs.le
```
Comment (joelkronqvist) [inline ExtremeValueProject/SelfSimilarCDF.lean]: Here a `simpa` is possible too, if preferred.
```lean4
        · simpa only [← Gx_sq, mulAction_apply_eq, homOfIndex₀_inv, apply_eq, homOfIndex₀_coefs_fst,
                      one_mul, homOfIndex₀_coefs_snd, neg_mul] using G.mono obs.le
```

File: ExtremeValueProject/TransformedCDF.lean [hunk 8]
```diff
@@ -119,9 +119,9 @@ lemma extend_apply_eq_map_measure_Iic (F : CumulativeDistributionFunction) (x :
   match x with
   | ⊥ =>
     rw [Measure.map_apply measurable_coe_real_ereal measurableSet_Iic]
-    convert show 0 = F.measure ∅ by simp
-    ext x
-    simp
+    have h : (fun x : ℝ ↦ (x : EReal)) ⁻¹' Set.Iic ⊥ = ∅ := by
+      ext x; simp [EReal.coe_ne_bot]
+    rw [h, measure_empty]; exact extend_bot F
```
Comment (joelkronqvist) [inline ExtremeValueProject/TransformedCDF.lean]: This takes one line more but could be more readable and closer to the original:
```lean4
    convert show 0 = F.measure ∅ by simp
    · simp
    · ext x
      simp
```

File: ExtremeValueProject/TypeOfCDF.lean [hunk 9]
```diff
@@ -134,7 +134,7 @@ lemma apply_eq_one_of_tendsto_of_gt
     linarith
 
   have : G' x ≥ 1 := by
-    by_contra
+    by_contra h
     linarith [this ((1 - G' x) / 2) (by linarith)]
```
Comment (joelkronqvist) [inline ExtremeValueProject/TypeOfCDF.lean]: I would prefer naming the `have (ε : ℝ) (ε_pos : ε > 0) : G' x > 1 - ε` on line R77 and using that name instead of `this`. The proof in the `have` is quite long so it's not very readable to refer to it here by `this`, and then things also break if e.g. `by_contra` is changed to introduce a new `this` as happened here.

File: ExtremeValueProject/WeakConvergenceCDF.lean [hunk 10]
```diff
@@ -168,9 +168,8 @@ lemma tendsto_iff_forall_continuousAt_tendsto
     apply homeomorph_probabilityMeasure.continuous.continuousAt.tendsto.comp h
   · intro h
     convert homeomorph_probabilityMeasure.symm.continuous.continuousAt.tendsto.comp h
-    · ext1 i
-      exact EquivLike.inv_apply_eq.mp rfl
-    · exact EquivLike.inv_apply_eq.mp rfl
+    · ext1 i; simp [← homeomorph_probabilityMeasure_apply_eq]
+    · simp [← homeomorph_probabilityMeasure_apply_eq]
```
Comment (joelkronqvist) [inline ExtremeValueProject/WeakConvergenceCDF.lean:172]:
```lean4
    · ext1 i
      exact EquivLike.inv_apply_eq.mp rfl
    · exact EquivLike.inv_apply_eq.mp rfl
```
still seems to work, and I'd assume `exact` is more exact than `simp`.

**Review by joelkronqvist — CHANGES_REQUESTED** [review]
Here's the parts which I did significantly differently and in which I think my solution is more readable or robust. I have also included the cases where my solution is closer to the original even though I think Claude's solution could be better – just in case there's something I have overlooked and the solution closer to the original version is preferred.

File: ExtremeValueProject/LimitRelationManipulation.lean (hunk 5 above)
Comment (kkytola) [reply ExtremeValueProject/LimitRelationManipulation.lean]: This did not work for me. Maybe I did not know which lines you meant to be replaced.

**Review by kkytola — COMMENTED** [review]
Thank you for the improvements @joelkronqvist! I did not manage to make one of them work immediately, but most were really good.

File: ExtremeValueProject/LimitRelationManipulation.lean (hunk 5 above)
Comment (kkytola) [reply ExtremeValueProject/LimitRelationManipulation.lean]: Ah, now I see what you meant. Thanks!
